* Crystal Neural Network - Analog SPICE Implementation
* Auto-generated from PyTorch crystal model
*
* This netlist implements a 32-neuron crystal network
* using analog computation:
*   - Weights as resistor networks
*   - Neurons as op-amp summing amplifiers
*   - Tanh via differential pair limiting
*
* Original dimensions: 784 -> 32 -> 10
* Demo dimensions: 16 -> 8 -> 10
*
* Frozen neurons: 26 (81.2%)
*
* "Intelligence crystallizes into geometry,
*  and geometry compiles to PHYSICS!" - Analog edition
*


* ============================================
* Power Supplies
* ============================================
VDD vdd 0 DC 5V
VSS vss 0 DC -5V
VREF vref 0 DC 0V

* Bias current for differential pairs
IBIAS1 vdd nbias1 DC 100uA


* ============================================
* Input Voltage Sources (representing input pixels)
* ============================================
* In real application, these would be DAC outputs or sensor signals
* Values normalized to [-1V, 1V] range

VIN0 in0 0 DC 0 AC 1 SIN(0 0.5 100)
VIN1 in1 0 DC 0 AC 1 SIN(0 0.5 150)
VIN2 in2 0 DC 0 AC 1 SIN(0 0.5 200)
VIN3 in3 0 DC 0 AC 1 SIN(0 0.5 250)
VIN4 in4 0 DC 0 AC 1 SIN(0 0.5 300)
VIN5 in5 0 DC 0 AC 1 SIN(0 0.5 350)
VIN6 in6 0 DC 0 AC 1 SIN(0 0.5 400)
VIN7 in7 0 DC 0 AC 1 SIN(0 0.5 450)
VIN8 in8 0 DC 0 AC 1 SIN(0 0.5 500)
VIN9 in9 0 DC 0 AC 1 SIN(0 0.5 550)
VIN10 in10 0 DC 0 AC 1 SIN(0 0.5 600)
VIN11 in11 0 DC 0 AC 1 SIN(0 0.5 650)
VIN12 in12 0 DC 0 AC 1 SIN(0 0.5 700)
VIN13 in13 0 DC 0 AC 1 SIN(0 0.5 750)
VIN14 in14 0 DC 0 AC 1 SIN(0 0.5 800)
VIN15 in15 0 DC 0 AC 1 SIN(0 0.5 850)

* ============================================
* Neuron Circuits (Summing Amplifiers + Tanh)
* ============================================
* Each neuron: sum(w_i * x_i) + bias, then tanh
*
* Architecture:
*   1. Resistor network for weighted sum (currents sum at virtual ground)
*   2. Op-amp converts current to voltage
*   3. Differential pair for tanh-like saturation
*


* ----- Neuron 0 -----
* Input weights for neuron 0
RIN0_0 in0 nsum0 11338  ; w=0.882
RIN0_1 in1 nsum0 12313  ; w=0.812
RIN0_2 in2 nsum0 47989
RIN0_3 in3 nsum0 11182  ; w=0.894
RIN0_4 in4 nsum0 395556  ; w=0.025
RIN0_5 in5 nsum0 45328  ; w=0.221
RIN0_6 in6 nsum0 64147
RIN0_7 in7 nsum0 11831  ; w=0.845
RIN0_8 in8 nsum0 219287  ; w=0.046
RIN0_9 in9 nsum0 18041509  ; w=0.001
RIN0_10 in10 nsum0 15020  ; w=0.666
RIN0_11 in11 nsum0 11432  ; w=0.875
RIN0_12 in12 nsum0 42285  ; w=0.236
RIN0_13 in13 nsum0 28074
RIN0_14 in14 nsum0 12892  ; w=0.776
RIN0_15 in15 nsum0 64035
RFB0 nsum0 nout0_pre 10000
* Op-amp for neuron 0
XOPAMP0 vref nsum0 vdd vss nout0_pre OPAMP_IDEAL
* Tanh limiting (diode clipping)
D0P nout0_pre nout0 DLIMIT
D0N nout0 nout0_pre DLIMIT
ROUT0 nout0_pre nout0 1k

* ----- Neuron 1 -----
* Input weights for neuron 1
RIN1_0 in0 nsum1 24861
RIN1_1 in1 nsum1 18409
RIN1_2 in2 nsum1 177442
RIN1_3 in3 nsum1 15140
RIN1_4 in4 nsum1 33647  ; w=0.297
RIN1_5 in5 nsum1 35909
RIN1_6 in6 nsum1 23952
RIN1_7 in7 nsum1 14226  ; w=0.703
RIN1_8 in8 nsum1 30192  ; w=0.331
RIN1_9 in9 nsum1 18029
RIN1_10 in10 nsum1 17015
RIN1_11 in11 nsum1 17328
RIN1_12 in12 nsum1 25701  ; w=0.389
RIN1_13 in13 nsum1 30570
RIN1_14 in14 nsum1 26335  ; w=0.380
RIN1_15 in15 nsum1 20494
RFB1 nsum1 nout1_pre 10000
* Op-amp for neuron 1
XOPAMP1 vref nsum1 vdd vss nout1_pre OPAMP_IDEAL
* Tanh limiting (diode clipping)
D1P nout1_pre nout1 DLIMIT
D1N nout1 nout1_pre DLIMIT
ROUT1 nout1_pre nout1 1k

* ----- Neuron 2 -----
* Input weights for neuron 2
RIN2_0 in0 nsum2 11516  ; w=0.868
RIN2_1 in1 nsum2 16999
RIN2_2 in2 nsum2 15318
RIN2_3 in3 nsum2 6797
RIN2_4 in4 nsum2 15408  ; w=0.649
RIN2_5 in5 nsum2 41473  ; w=0.241
RIN2_6 in6 nsum2 14691
RIN2_7 in7 nsum2 15067
RIN2_8 in8 nsum2 68257
RIN2_9 in9 nsum2 46377  ; w=0.216
RIN2_10 in10 nsum2 189208
RIN2_11 in11 nsum2 280864  ; w=0.036
RIN2_12 in12 nsum2 107717
RIN2_13 in13 nsum2 71545  ; w=0.140
RIN2_14 in14 nsum2 34428
RIN2_15 in15 nsum2 157475  ; w=0.064
RFB2 nsum2 nout2_pre 10000
* Op-amp for neuron 2
XOPAMP2 vref nsum2 vdd vss nout2_pre OPAMP_IDEAL
* Tanh limiting (diode clipping)
D2P nout2_pre nout2 DLIMIT
D2N nout2 nout2_pre DLIMIT
ROUT2 nout2_pre nout2 1k

* ----- Neuron 3 -----
* Input weights for neuron 3
RIN3_0 in0 nsum3 7604  ; w=1.315
RIN3_1 in1 nsum3 345724
RIN3_2 in2 nsum3 111016  ; w=0.090
RIN3_3 in3 nsum3 15754  ; w=0.635
RIN3_4 in4 nsum3 12659
RIN3_5 in5 nsum3 30064
RIN3_6 in6 nsum3 79240
RIN3_7 in7 nsum3 21214  ; w=0.471
RIN3_8 in8 nsum3 277689
RIN3_9 in9 nsum3 18118
RIN3_10 in10 nsum3 59714
RIN3_11 in11 nsum3 30560  ; w=0.327
RIN3_12 in12 nsum3 91419
RIN3_13 in13 nsum3 13689
RIN3_14 in14 nsum3 23369
RIN3_15 in15 nsum3 80165  ; w=0.125
RFB3 nsum3 nout3_pre 10000
* Op-amp for neuron 3
XOPAMP3 vref nsum3 vdd vss nout3_pre OPAMP_IDEAL
* Tanh limiting (diode clipping)
D3P nout3_pre nout3 DLIMIT
D3N nout3 nout3_pre DLIMIT
ROUT3 nout3_pre nout3 1k

* ----- Neuron 4 -----
* Input weights for neuron 4
RIN4_0 in0 nsum4 20933  ; w=0.478
RIN4_1 in1 nsum4 20049  ; w=0.499
RIN4_2 in2 nsum4 15501  ; w=0.645
RIN4_3 in3 nsum4 14397  ; w=0.695
RIN4_4 in4 nsum4 16539  ; w=0.605
RIN4_5 in5 nsum4 23121  ; w=0.433
RIN4_6 in6 nsum4 18574  ; w=0.538
RIN4_7 in7 nsum4 1842488  ; w=0.005
RIN4_8 in8 nsum4 13100  ; w=0.763
RIN4_9 in9 nsum4 114957  ; w=0.087
RIN4_10 in10 nsum4 12841
RIN4_11 in11 nsum4 15980  ; w=0.626
RIN4_12 in12 nsum4 36817
RIN4_13 in13 nsum4 368804  ; w=0.027
RIN4_14 in14 nsum4 33583  ; w=0.298
RIN4_15 in15 nsum4 8998  ; w=1.111
RFB4 nsum4 nout4_pre 10000
* Op-amp for neuron 4
XOPAMP4 vref nsum4 vdd vss nout4_pre OPAMP_IDEAL
* Tanh limiting (diode clipping)
D4P nout4_pre nout4 DLIMIT
D4N nout4 nout4_pre DLIMIT
ROUT4 nout4_pre nout4 1k

* ----- Neuron 5 -----
* Input weights for neuron 5
RIN5_0 in0 nsum5 31070
RIN5_1 in1 nsum5 91784
RIN5_2 in2 nsum5 13207
RIN5_3 in3 nsum5 142713  ; w=0.070
RIN5_4 in4 nsum5 28334  ; w=0.353
RIN5_5 in5 nsum5 8901
RIN5_6 in6 nsum5 36827  ; w=0.272
RIN5_7 in7 nsum5 29670  ; w=0.337
RIN5_8 in8 nsum5 24094  ; w=0.415
RIN5_9 in9 nsum5 28018  ; w=0.357
RIN5_10 in10 nsum5 26802
RIN5_11 in11 nsum5 9578  ; w=1.044
RIN5_12 in12 nsum5 15504  ; w=0.645
RIN5_13 in13 nsum5 35780
RIN5_14 in14 nsum5 37105  ; w=0.270
RIN5_15 in15 nsum5 40935
RFB5 nsum5 nout5_pre 10000
* Op-amp for neuron 5
XOPAMP5 vref nsum5 vdd vss nout5_pre OPAMP_IDEAL
* Tanh limiting (diode clipping)
D5P nout5_pre nout5 DLIMIT
D5N nout5 nout5_pre DLIMIT
ROUT5 nout5_pre nout5 1k

* ----- Neuron 6 -----
* Input weights for neuron 6
RIN6_0 in0 nsum6 25888
RIN6_1 in1 nsum6 38060
RIN6_2 in2 nsum6 34507
RIN6_3 in3 nsum6 241207
RIN6_4 in4 nsum6 19275
RIN6_5 in5 nsum6 17242  ; w=0.580
RIN6_6 in6 nsum6 25731  ; w=0.389
RIN6_7 in7 nsum6 15567
RIN6_8 in8 nsum6 28953  ; w=0.345
RIN6_9 in9 nsum6 9990
RIN6_10 in10 nsum6 17194
RIN6_11 in11 nsum6 21582  ; w=0.463
RIN6_12 in12 nsum6 82449
RIN6_13 in13 nsum6 8643
RIN6_14 in14 nsum6 30907
RIN6_15 in15 nsum6 35588
RFB6 nsum6 nout6_pre 10000
* Op-amp for neuron 6
XOPAMP6 vref nsum6 vdd vss nout6_pre OPAMP_IDEAL
* Tanh limiting (diode clipping)
D6P nout6_pre nout6 DLIMIT
D6N nout6 nout6_pre DLIMIT
ROUT6 nout6_pre nout6 1k

* ----- Neuron 7 -----
* Input weights for neuron 7
RIN7_0 in0 nsum7 58847  ; w=0.170
RIN7_1 in1 nsum7 11825  ; w=0.846
RIN7_2 in2 nsum7 11259  ; w=0.888
RIN7_3 in3 nsum7 32628
RIN7_4 in4 nsum7 48555  ; w=0.206
RIN7_5 in5 nsum7 20256  ; w=0.494
RIN7_6 in6 nsum7 10817  ; w=0.924
RIN7_7 in7 nsum7 779822  ; w=0.013
RIN7_8 in8 nsum7 18275  ; w=0.547
RIN7_9 in9 nsum7 18570  ; w=0.539
RIN7_10 in10 nsum7 40988
RIN7_11 in11 nsum7 140235  ; w=0.071
RIN7_12 in12 nsum7 61141  ; w=0.164
RIN7_13 in13 nsum7 9948
RIN7_14 in14 nsum7 35727
RIN7_15 in15 nsum7 99321
RFB7 nsum7 nout7_pre 10000
* Op-amp for neuron 7
XOPAMP7 vref nsum7 vdd vss nout7_pre OPAMP_IDEAL
* Tanh limiting (diode clipping)
D7P nout7_pre nout7 DLIMIT
D7N nout7 nout7_pre DLIMIT
ROUT7 nout7_pre nout7 1k

* ============================================
* Output Layer (10 classes)
* ============================================
* Each output sums contributions from all neurons
*


* ----- Output 0 -----
ROUT0_0 nout0 osum0 18896
ROUT0_1 nout1 osum0 20521
ROUT0_2 nout2 osum0 79982
ROUT0_3 nout3 osum0 18636
ROUT0_4 nout4 osum0 659260
ROUT0_5 nout5 osum0 75547
ROUT0_6 nout6 osum0 106912
ROUT0_7 nout7 osum0 19718
XOUT0 vref osum0 vdd vss out0 OPAMP_IDEAL

* ----- Output 1 -----
ROUT1_0 nout0 osum1 19050
ROUT1_1 nout1 osum1 12314
ROUT1_2 nout2 osum1 19983
ROUT1_3 nout3 osum1 26682
ROUT1_4 nout4 osum1 79704
ROUT1_5 nout5 osum1 135874
ROUT1_6 nout6 osum1 15397
ROUT1_7 nout7 osum1 67477
XOUT1 vref osum1 vdd vss out1 OPAMP_IDEAL

* ----- Output 2 -----
ROUT2_0 nout0 osum2 22973
ROUT2_1 nout1 osum2 105224
ROUT2_2 nout2 osum2 45298
ROUT2_3 nout3 osum2 95222
ROUT2_4 nout4 osum2 186537
ROUT2_5 nout5 osum2 466366
ROUT2_6 nout6 osum2 59288
ROUT2_7 nout7 osum2 14528
XOUT2 vref osum2 vdd vss out2 OPAMP_IDEAL

* ----- Output 3 -----
ROUT3_0 nout0 osum3 22444
ROUT3_1 nout1 osum3 33776
ROUT3_2 nout2 osum3 30562
ROUT3_3 nout3 osum3 39609
ROUT3_4 nout4 osum3 27679
ROUT3_5 nout5 osum3 172183
ROUT3_6 nout6 osum3 279291
ROUT3_7 nout7 osum3 41794
XOUT3 vref osum3 vdd vss out3 OPAMP_IDEAL

* ----- Output 4 -----
ROUT4_0 nout0 osum4 29484
ROUT4_1 nout1 osum4 38035
ROUT4_2 nout2 osum4 988504
ROUT4_3 nout3 osum4 103255
ROUT4_4 nout4 osum4 28184
ROUT4_5 nout5 osum4 31481
ROUT4_6 nout6 osum4 393033
ROUT4_7 nout7 osum4 2620881
XOUT4 vref osum4 vdd vss out4 OPAMP_IDEAL

* ----- Output 5 -----
ROUT5_0 nout0 osum5 88332
ROUT5_1 nout1 osum5 517530
ROUT5_2 nout2 osum5 3536866
ROUT5_3 nout3 osum5 1107193
ROUT5_4 nout4 osum5 60454
ROUT5_5 nout5 osum5 72318
ROUT5_6 nout6 osum5 77285
ROUT5_7 nout7 osum5 73016
XOUT5 vref osum5 vdd vss out5 OPAMP_IDEAL

* ----- Output 6 -----
ROUT6_0 nout0 osum6 736184
ROUT6_1 nout1 osum6 100415
ROUT6_2 nout2 osum6 33001
ROUT6_3 nout3 osum6 14655
ROUT6_4 nout4 osum6 40826
ROUT6_5 nout5 osum6 5381945
ROUT6_6 nout6 osum6 43360
ROUT6_7 nout7 osum6 123070
XOUT6 vref osum6 vdd vss out6 OPAMP_IDEAL

* ----- Output 7 -----
ROUT7_0 nout0 osum7 120254
ROUT7_1 nout1 osum7 110413
ROUT7_2 nout2 osum7 69957
ROUT7_3 nout3 osum7 69340
ROUT7_4 nout4 osum7 120474
ROUT7_5 nout5 osum7 44182
ROUT7_6 nout6 osum7 14123
ROUT7_7 nout7 osum7 74075
XOUT7 vref osum7 vdd vss out7 OPAMP_IDEAL

* ----- Output 8 -----
ROUT8_0 nout0 osum8 166379
ROUT8_1 nout1 osum8 17816
ROUT8_2 nout2 osum8 13184
ROUT8_3 nout3 osum8 63506
ROUT8_4 nout4 osum8 48389
ROUT8_5 nout5 osum8 451087
ROUT8_6 nout6 osum8 65418
ROUT8_7 nout7 osum8 140817
XOUT8 vref osum8 vdd vss out8 OPAMP_IDEAL

* ----- Output 9 -----
ROUT9_0 nout0 osum9 18627
ROUT9_1 nout1 osum9 62804
ROUT9_2 nout2 osum9 66113
ROUT9_3 nout3 osum9 31172
ROUT9_4 nout4 osum9 68181
ROUT9_5 nout5 osum9 148482
ROUT9_6 nout6 osum9 24249
ROUT9_7 nout7 osum9 200382
XOUT9 vref osum9 vdd vss out9 OPAMP_IDEAL

* ============================================
* Subcircuit Definitions
* ============================================

* Ideal op-amp model
.SUBCKT OPAMP_IDEAL inp inn vdd vss out
EOUT out 0 VALUE={100000*V(inp,inn)}
ROUT out 0 100
.ENDS

* Limiting diode model
.MODEL DLIMIT D(IS=1e-14 N=1.0 BV=0.7)

* ============================================
* Analysis Commands
* ============================================

* DC operating point
.OP

* Transient analysis (10ms, 1us step)
.TRAN 1us 10ms

* AC analysis
.AC DEC 10 1 100k

* Measure output voltages
.MEASURE TRAN out0_avg AVG V(out0) FROM=5ms TO=10ms
.MEASURE TRAN out1_avg AVG V(out1) FROM=5ms TO=10ms
.MEASURE TRAN out2_avg AVG V(out2) FROM=5ms TO=10ms

* ============================================
* Probe Outputs
* ============================================
.PROBE V(out0) V(out1) V(out2) V(out3) V(out4)
.PROBE V(out5) V(out6) V(out7) V(out8) V(out9)
.PROBE V(nout0) V(nout1) V(nout2) V(nout3)

* Interactive control for ngspice
.control
    echo ""
    echo "============================================================"
    echo "   CRYSTAL NEURAL NETWORK - ANALOG CIRCUIT SIMULATION"
    echo "============================================================"
    echo "   8 neurons, 10 outputs, 16 inputs"
    echo "   Weights encoded as resistor values (Ohms law!)"
    echo "   Running transient analysis..."
    echo "============================================================"
    echo ""

    * Run transient simulation
    tran 1us 5ms

    echo ""
    echo "=== NEURON ACTIVATIONS (voltages) ==="
    meas tran n0 find v(nout0) at=4ms
    meas tran n1 find v(nout1) at=4ms
    meas tran n2 find v(nout2) at=4ms
    meas tran n3 find v(nout3) at=4ms
    meas tran n4 find v(nout4) at=4ms
    meas tran n5 find v(nout5) at=4ms
    meas tran n6 find v(nout6) at=4ms
    meas tran n7 find v(nout7) at=4ms

    echo ""
    echo "=== OUTPUT CLASS VOLTAGES ==="
    meas tran class0 find v(out0) at=4ms
    meas tran class1 find v(out1) at=4ms
    meas tran class2 find v(out2) at=4ms
    meas tran class3 find v(out3) at=4ms
    meas tran class4 find v(out4) at=4ms
    meas tran class5 find v(out5) at=4ms
    meas tran class6 find v(out6) at=4ms
    meas tran class7 find v(out7) at=4ms
    meas tran class8 find v(out8) at=4ms
    meas tran class9 find v(out9) at=4ms

    echo ""
    echo "============================================================"
    echo "   ANALOG NEURAL NETWORK COMPUTED SUCCESSFULLY!"
    echo ""
    echo "   The weights are RESISTOR VALUES"
    echo "   The sums are KIRCHHOFF'S CURRENT LAW"
    echo "   The activation is DIODE PHYSICS"
    echo ""
    echo "   This is the SAME crystal structure as PyTorch!"
    echo "   Intelligence crystallized into ACTUAL PHYSICS!"
    echo "============================================================"

    quit
.endc

.END
